US06515023B2
A mixture of 3.9 g (14 mmol) 2-bromo-1-(3,4-dichlorophenyl)ethanol and 10 ml isopropylamine was sealed and heated to 80° C. for 16 h, then cooled to room temperature, diluted with 500 mL EtOAc, washed with 400 mL saturated aqueous NaHCO3, and 500 mL brine, then dried over Na2SO4, filtered and concentrated. Purification by flash chromatography (5×8 cm silica gel, elute with 250 mL 3%MeOH/CH2Cl2, 100 mL 50% EtOH/CH2Cl2, then 200 mL EtOH) afforded 2.7 g 2-isopropylamino-1-(3,4-dichlorophenyl)ethanol. 1H NMR(400 mHz, CDCl3) 7.48 (d, 1H, J=1.92 Hz); 7.40 (d, 1H, J=8.22 Hz); 7.20 (dd, 1H, J=8.23and 1.92 Hz); 4.59 (dd, 1H, J=8.96 and 3.75 Hz); 2.94 (dd, 1H, J=12.2 and 3.66 Hz); 2.83 (sept, 1H, J=6.31 Hz); 2.57 (dd, 1H, J=12.3 and 8.87 Hz); 1.09 (d, 3H, J=6.31 Hz); 1.08 (d, 3H, J=6.22 Hz).

reactant | 2-bromo-1-(3,4-dichlorophenyl)ethanol | 14 mmol, 3.9 g | BrCC(O)C1=CC(=C(C=C1)Cl)Cl | C8H7BrCl2O
reactant | isopropylamine | 10 ml | C(C)(C)N | C3H9N
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 2-isopropylamino-1-(3,4-dichlorophenyl)ethanol | 2.7 g | C(C)(C)NCC(O)C1=CC(=C(C=C1)Cl)Cl | C11H15Cl2NO
